US06720320B2
5-(2′-hydroxystyryl)-3-methyl-1,2,4-oxadiazole
Acetamide oxime (7.5 g), molecular sieves (4A) (10 g) and sodium hydride (5 g) were added to tetrahydrofuran (200 ml) and the mixture was refluxed under heating. To this reaction mixture was added dropwise ethyl 2-(methoxymethyloxy)cinnamate (12 g) and the mixture was continuously heated for 2 hr. After cooling, the mixture was poured on ice and extracted with ethyl acetate. The organic layer was concentrated under reduced pressure. Thereto were added tetrahydrofuran (10 ml) and 6N hydrochloric acid (20 ml) and the mixture was stirred with heating at 50° C. for 30 min to allow precipitation of crystals. The crystals were collected by filtration and dried to give the title compound (6.0 g) as white crystals, melting point 184-186° C.

reactant | Acetamide oxime | 7.5 g | C(C)(N)=NO | C2H6N2O
reactant | sodium hydride | 5 g | [H-].[Na+]
reactant | ethyl 2-(methoxymethyloxy)cinnamate | 12 g | COCOC1=C(C=CC(=O)OCC)C=CC=C1 | C13H16O4
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 5-(2′-hydroxystyryl)-3-methyl-1,2,4-oxadiazole | 6.0 g | OC1=C(C=CC2=NC(=NO2)C)C=CC=C1 | C11H10N2O2
